US08003649B2
DIAD (2.262 mL, 11.49 mmol) was added to 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (3 g, 10.44 mmol), ethyl 4-hydroxybenzoate (1.909 g, 11.49 mmol) and triphenylphosphine (3.01 g, 11.49 mmol) in THF (50 mL) under nitrogen. The resulting solution was stirred at ambient temperature for 4 hours. The crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 2M ammonia in methanol. The crude solid was triturated with MeOH to give a solid which was collected by filtration and dried under vacuum to give ethyl 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzoate (2.220 g, 49%) as a solid.

reactant | DIAD | 11.49 mmol, 2.262 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 10.44 mmol, 3 g | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)O)(F)F | C11H12F3N5O
reactant | ethyl 4-hydroxybenzoate | 11.49 mmol, 1.909 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | triphenylphosphine | 11.49 mmol, 3.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzoate | 2.220 g, 49% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)OC2=CC=C(C(=O)OCC)C=C2)(F)F | C20H20F3N5O3
